US06890940B2
To a solution of N,N′-bis[2-[4-(4-methoxybenzyloxy)-3,5-dimethoxyphenyl]-5-pyridyl]-N,N′-dimethyl-1,3-propanediamine (72.0 mg, 0.089 mmol) in methylene chloride (1.0 mL) was added trifluoroacetic acid (1.0 mL). The reaction mixture was stirred at room temperature for 30 minutes, and concentrated under reduced pressure. A solution of the residue in chloroform was washed with saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield N,N′-bis[2-(4-hydroxy-3,5-dimethoxyphenyl)-5-pyridyl]-N,N′-dimethyl-1,3-propanediamine as a pale yellow oil (43.0 mg, yield: 86%).

reactant | N,N′-bis[2-[4-(4-methoxybenzyloxy)-3,5-dimethoxyphenyl]-5-pyridyl]-N,N′-dimethyl-1,3-propanediamine | 0.089 mmol, 72.0 mg | COC1=CC=C(COC2=C(C=C(C=C2OC)C2=NC=C(C=C2)N(CCCN(C)C=2C=CC(=NC2)C2=CC(=C(C(=C2)OC)OCC2=CC=C(C=C2)OC)OC)C)OC)C=C1 | C47H52N4O8
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N,N′-bis[2-(4-hydroxy-3,5-dimethoxyphenyl)-5-pyridyl]-N,N′-dimethyl-1,3-propanediamine | 43.0 mg, yield: 86% | OC1=C(C=C(C=C1OC)C1=NC=C(C=C1)N(CCCN(C)C=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)O)OC)C)OC | C31H36N4O6
